2179-02-21 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-21**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.3
   HR: 85 (85 - 103) bpm
   BP: 129/57(75) {111/53(67) - 146/71(88)} mmHg
   RR: 17 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
                  Total In:
                                                                    250 mL
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    200 mL
                                                                    930 mL
   Urine:
                                                                    100 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     50 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (443 - 470) mL
   PS : 15 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.34/62/78.[**Numeric Identifier 274**]/32/4
   Ve: 8.4 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: Very low air movement)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   292 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.9 mEq/L
   21 mg/dL
   91 mEq/L
   132 mEq/L
   30.4 %
        [image002.jpg]
                             [**2179-2-21**]  01:17 AM
                             [**2179-2-21**]  03:31 AM
   Hct
   30.4
   Cr
   1.0
   TCO2
   35
   Glucose
   292
   Other labs: Ca++:9.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   #  ACUTE COPD EXACERBATION: Patient with longstanding COPD, on
   supplemental oxygen for the past few years, with single prior
   intubation about 1 year ago (x ~1 week). No clear preceeding prodrome,
   no fevers or chills however sputum color change. Given degree of
   acidosis with metabolic compensation, suspect this has been a slowly
   progressing decompensation.
   -- IV solumedrol given in [**Last Name (LF) **], [**First Name3 (LF) 116**] continue prednisone 60mg PO this AM
   -- Azithromycin x 5 days
   -- Round the clock nebs
   -- BIPAP overnight, goal O2 sat ~96%
   -- Would consider home BIPAP
   -- Will tirate PS as necessary, CO2 goal ~60
   -- If not improving in the next 24 hrs, would consider CTA PE as this
   is commonly implicated in exacerbations.
   -- Likely due to viral syndrome, will check nasopharyngeal swab
   respiratory panel.
   .
   #  RESPIRATORY ACIDOSIS: Given degree of compensation, suspect chronic
   process. Will treat CO2 retention with BIPAP
   -- Increase pressure support as necessary
   -- F/U ABG
   .
   #  HYPERLIPIDEMIA: Continue pravastating
   .
   #  DIABETES: Sliding scale insulin, would expect for blood glucose to
   be more difficult to control in setting of steroid use.
   -- q6h fingerstick
   .
   # DEMENTIA: Baseline high functioning, will continue to follow
   .
   # DEPRESSION: Continue setraline, Trazodone
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2179-2-20**] 10:50 PM
   18 Gauge - [**2179-2-20**] 10:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2179-02-21 09:10:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Admitted now doing well off Bipap.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   lisinopril, pravastatin, azithromycin, assa, atrovent, prednisone 60,
   insluin sliding scale, famotidine, s/c heparin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-21**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.3
   HR: 108 (85 - 108) bpm
   BP: 158/129(137) {111/53(67) - 158/129(137)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 73.7 kg
                  Total In:
                                                                    250 mL
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    200 mL
                                                                  1,130 mL
   Urine:
                                                                    100 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     50 mL
                                                                 -1,130 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (443 - 470) mL
   PS : 15 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.34/62/78.[**Numeric Identifier 274**]/32/4
   Ve: 8.4 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S2: Distant), ditant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   292 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.9 mEq/L
   21 mg/dL
   91 mEq/L
   132 mEq/L
   30.4 %
        [image002.jpg]
                             [**2179-2-21**]  01:17 AM
                             [**2179-2-21**]  03:31 AM
   Hct
   30.4
   Cr
   1.0
   TCO2
   35
   Glucose
   292
   Other labs: Ca++:9.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR hyperinflated, diaphragmatic flattening.
   Microbiology: Blood cultures negative to date
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION: severe COPD, baseline FeV1 0.49 33% of
   predicted. presentation consistent with acute COPD flare, likely
   exacerbated by excessive supplemental O2 in the ED. No clear evidence
   for pneumonia or infection, but with sputum color change per family.
   Wean FiO2 to goal sat 88-90%. WIll continue with prednisone 60 for
   today with taper over one week and monitor carefully, albuterol and
   atrovent q6 standing, and continue azithromycin. Will need to start on
   higher dose of advair 500/50 prior to discharge.
DM: will monitor sugars while on steroids.
   ICU Care
   Nutrition:
   Comments: resume diet with Rn monitoring.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2179-2-20**] 10:50 PM
   18 Gauge - [**2179-2-20**] 10:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, if continue to tolerate being off bipap will call out
   later today.
   Total time spent:
   ------ Protected Section ------
   ICU Attending Coverage
   I saw and examined the patient with the pulmonary fellow, the
   assessment and plan was discussed in detail. I would emphasize the
   following.  Clinically improved with treatment as outlined above for
   COPD exacerbation, possible tracheobronchitis.  Off BiPAP.
   Desaturations noted with minimal exertion (while eating).
   Air movement decreased throughout.  Moderately strong cough.
   Agree with continuing to monitor in the ICU given tenuous respiratory
   status.
   Agree with assessment and plan as detailed above.
   Patient is critically ill
   Time spent:  30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2179-2-21**] 13:30 ------

2179-02-22 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - viral screen negative
   - patient still desats to 80's when eating or moving.
   - pt with tachycardia --> ECG shows sinus tach
   - pt felt SOB at 11:30pm, Pt on 1L NC sating 95%. ABG showed
   7.41/54/68/35. Gave nebs and still tachypenic.
   - Placed on BiPAP overnight and tolerated only for 1.5hrs
   - Tachy/uncomfortable this AM: placed back on BIPAP still on it right
   now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-2-21**] 08:31 AM
   Heparin Sodium (Prophylaxis) - [**2179-2-21**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-22**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 106 (85 - 123) bpm
   BP: 134/63(80) {118/33(52) - 158/129(137)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 73.7 kg
                  Total In:
                                                                    700 mL
                  PO:
                                                                    700 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,815 mL
                                                                    310 mL
   Urine:
                                                                  2,815 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,115 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 436 (436 - 436) mL
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 25%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.41/54/68/31/7
   Ve: 11.4 L/min
   PaO2 / FiO2: 272
   Physical Examination
   Gen: NAD, elderly female
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: Very low air movement)
   Extremities: No LE edema
   Skin:  Not assessed
   Neurologic: Attentive, A&Ox3
   Labs / Radiology
   261 K/uL
   9.5 g/dL
   202 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.5 mEq/L
   27 mg/dL
   98 mEq/L
   141 mEq/L
   29.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2179-2-21**]  01:17 AM
                             [**2179-2-21**]  03:31 AM
                             [**2179-2-21**]  11:26 PM
                             [**2179-2-22**]  04:59 AM
   WBC
   9.6
   10.0
   Hct
   30.4
   29.5
   Plt
   262
   261
   Cr
   1.0
   1.1
   TCO2
   35
   35
   Glucose
   292
   202
   Other labs: PT / PTT / INR:11.2/26.4/0.9, Differential-Neuts:75.2 %,
   Lymph:19.3 %, Mono:5.2 %, Eos:0.3 %, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   #  ACUTE COPD EXACERBATION: Patient with longstanding COPD, on
   supplemental oxygen for the past few years, with single prior
   intubation about 1 year ago (x ~1 week). No clear preceeding prodrome,
   no fevers or chills however sputum color change. Viral screen negative.
   Given degree of acidosis with metabolic compensation, suspect this has
   been a slowly progressing decompensation.  CXR this morning looks
   clear.  However she is desatting to 60% with cough/movement on rounds.
   -- BIPAP currently
   -- IV solumedrol given in [**Last Name (LF) **], [**First Name3 (LF) 116**] continue prednisone 60mg PO
   -- Azithromycin x 5 days (day #[**2-26**])
   -- Round the clock nebs- albuterol q2prn, atrovent q6
   -- Needs BIPAP at night
   -- Will tirate PS as necessary, CO2 goal ~60
   --Goal O2 sat 88-93%
   -- If not improving in the next 24 hrs, would consider CTA PE as this
   is commonly implicated in exacerbations.
   -
   #Tachycardia- Sinus on EKG but currently going on bigeminy. [**Month (only) 11**] be
   related to steroids/albuterol frequency vs possibility of PE vs
   hypovolemia
   --500cc bolus now
   -- Low suspicion for PE
   -- Order LENIs
   .
   #  RESPIRATORY ACIDOSIS: Given degree of compensation, suspect chronic
   process. Will treat CO2 retention with BIPAP
   -- ABG improved CO2; likely chronically retains
   .
   #  HYPERLIPIDEMIA: Continue pravastatin
   .
   #  DIABETES: Sliding scale insulin, would expect for blood glucose to
   be more difficult to control in setting of steroid use.
   -- q6h fingerstick
   .
   # DEMENTIA: Baseline high functioning, will continue to follow
   .
   # DEPRESSION: Continue setraline, Trazodone
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2179-2-20**] 10:50 PM
   18 Gauge - [**2179-2-20**] 10:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2179-02-22 09:19:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Tachycardic to the 110s, and complained of increased SOB, ABG was
   improved with PCO2 in the 50s, placed on Bipap and became more
   comfortable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-2-22**] 07:43 AM
   Heparin Sodium (Prophylaxis) - [**2179-2-22**] 07:43 AM
   Other medications:
   lisinpril 2.5, pravastatin, azithromycin, ASA, atrovent, prednisone
   60., insulin sliding scale, heparin s/c, advair, sertraline, albuterol
   q2.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-22**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 105 (94 - 123) bpm
   BP: 145/56(78) {118/33(52) - 157/72(87)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 73.7 kg
                  Total In:
                                                                    700 mL
                                                                    180 mL
   PO:
                                                                    700 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,815 mL
                                                                    410 mL
   Urine:
                                                                  2,815 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,115 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (380 - 440) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 4 cmH2O
   FiO2: 24%
   PIP: 16 cmH2O
   SpO2: 88%
   ABG: 0.00/54/68/31/7
   Ve: 10.2 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : scattered faint)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   9.5 g/dL
   261 K/uL
   202 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.5 mEq/L
   27 mg/dL
   98 mEq/L
   141 mEq/L
   29.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2179-2-21**]  01:17 AM
                             [**2179-2-21**]  03:31 AM
                             [**2179-2-21**]  11:26 PM
                             [**2179-2-22**]  04:59 AM
   WBC
   9.6
   10.0
   Hct
   30.4
   29.5
   Plt
   262
   261
   Cr
   1.0
   1.1
   TCO2
   35
   35
   Glucose
   292
   202
   Other labs: PT / PTT / INR:11.2/26.4/0.9, Differential-Neuts:75.2 %,
   Lymph:19.3 %, Mono:5.2 %, Eos:0.3 %, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CXR: clear
   Microbiology: sputum with oral flora
   viral screen negative
   blood and urine cultures negative
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION: Azithromycin, continue prednisone may need
   additional steriods if she doesnot improve, continue intermittent bipap
   as tolerated, continue albuterol will increase frequency to q4hours
   standing, seems volume down will give gentle fluids back.. hold off on
   PE CT as suspicion is low and has clear COPD exacerbation and she is
   somewhat high risk for travel, will obtain LENIs for now and
   continuously r/a her progress.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2179-2-20**] 10:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   Attending Note: I saw and examined the patient, and was physically
   present with Dr. [**First Name (STitle) 8379**] for the key portions of the services provided.
   I agree with the note above, including the assessment and plan. I would
   emphasize and add the following points:
   Severe O2-dependent COPD, FEV1 0.5, known to Dr [**Last Name (STitle) **], pHTN, DM,
   admitted with respiratory distress and change in sputum. Initial ABG in
   ED notable for pCO2 98 on NRB but improved with BiPAP. Treated as
   pneumonia and acute exacerbation of COPD. Ruled out for flu.
   Remains tachypneic and tachycardic, in sinus rhythm 110s with no
   obvious cause. Agree with ruling out PE with CTA although she has been
   on prophylaxis and LENIs negative. Will hydrate pre-CT to minimize
   renal toxicity. Creatinine very near baseline at 1.1, GFR 58. Mild
   increase in creatinine may be related to autodiuresis (- 2L / 24 h
   yesterday).
   Acute respiratory failure: agree with continuing intermittent BiPAP as
   needed, nebs and prednisone 60 mg.
   Patient remains critically ill and will therefore remain in the ICU.
   Time spent 33 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1512**] [**Last Name (NamePattern1) 1513**], MD
   on:[**2179-2-22**] 18:28 ------

2179-02-23 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -LENI's negative
   -No response to 500cc bolus, giving maintenance fluids @75cc/hr
   -On/Off BIPAP
   -CTA ordered to evaluate for PE: precath hydration
   -Given pt on D5NS (pre CT hydration) and steroids started insulin gtt
   for better glycemic control- weaned off gtt after fluids stopped
   -CTA: again architectural distortion in lung apices. spiculated 14 x 11
   x 8mm RUL opacity now with more mass-like appearance compared to
   [**2178-1-26**]; given underlying severe emphysema, primarly malignancy is of
   concern. respiratory motion limits eval for small PE, but no
   large/central PE seen. thyroid nodules. cholelithiasis. vascular and
   coronary calcs.
   -No BIPAP needed overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-2-22**] 07:43 AM
   Heparin Sodium (Prophylaxis) - [**2179-2-22**] 03:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-23**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 108 (93 - 119) bpm
   BP: 100/71(77) {100/34(58) - 200/118(149)} mmHg
   RR: 27 (19 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
             Total In:
                                                                  2,136 mL
                                                                      3 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,896 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    380 mL
   Urine:
                                                                  2,660 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -524 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (440 - 480) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 4 cmH2O
   FiO2: 24%
   SpO2: 100%
   ABG: 7.43/53/65/37/8
   Ve: 10.8 L/min
   PaO2 / FiO2: 271
   Physical Examination
   Gen: NAD, elderly female
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: Very low air movement)
   Extremities: No LE edema
   Skin:  Not assessed
   Neurologic: Attentive, A&Ox3
   Labs / Radiology
   270 K/uL
   9.5 g/dL
   177 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.3 mEq/L
   19 mg/dL
   97 mEq/L
   141 mEq/L
   30.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2179-2-21**]  01:17 AM
                             [**2179-2-21**]  03:31 AM
                             [**2179-2-21**]  11:26 PM
                             [**2179-2-22**]  04:59 AM
                             [**2179-2-22**]  02:02 PM
                             [**2179-2-23**]  01:31 AM
   WBC
   9.6
   10.0
   8.9
   Hct
   30.4
   29.5
   30.1
   Plt
   [**Telephone/Fax (3) 10705**]
   Cr
   1.0
   1.1
   1.0
   TCO2
   35
   35
   36
   Glucose
   292
   202
   177
   Other labs: PT / PTT / INR:11.2/26.4/0.9, Differential-Neuts:69.9 %,
   Lymph:23.5 %, Mono:6.2 %, Eos:0.4 %, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   Ms [**Known lastname 3243**] is a 77 year old woman with COPD, hypertension,
   hyperlipidemia, presenting with acute COPD exacerbation, now improved
   on BIPAP
   #  ACUTE COPD EXACERBATION: Patient with longstanding COPD, on
   supplemental oxygen for the past few years, with single prior
   intubation about 1 year ago (x ~1 week). No clear preceeding prodrome,
   no fevers or chills however sputum color change. Viral screen negative.
   Given degree of acidosis with metabolic compensation, suspect this has
   been a slowly progressing decompensation.  CXR this morning looks
   clear.  However she is desatting to 60% with cough/movement on rounds.
   -- BIPAP currently
   -- will continue prednisone 60mg PO
   -- Azithromycin x 5 days (day #[**3-26**])
   -- Round the clock nebs- albuterol q2prn, atrovent q6
   -- No need for BIPAP at this time, will monitor
   --Goal O2 sat 88-93%
   .
   #. RUL lobe mass: Seen on CTA and increasing from prior CT.  Very
   concerning for malignancy.  Will need to discuss with patient and
   familt regarding goals of care.  Given poor resp status biopsy will not
   be trivial.
   .
   #Tachycardia- Sinus on EKG but currently going on bigeminy. [**Month (only) 11**] be
   related to steroids/albuterol frequency. No PE on CTA
   -- cont to monitor
   -- IVF prn, but encourge po intake
   ..
   #  HYPERLIPIDEMIA: Continue pravastatin
   .
   #  DIABETES: Sliding scale insulin, would expect for blood glucose to
   be more difficult to control in setting of steroid use.
   -- q6h fingerstick
   .
   # DEMENTIA: Baseline high functioning, will continue to follow
   .
   # DEPRESSION: Continue setraline, Trazodone
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-2-22**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor

2179-02-23 11:17:00 Physician Attending Progress Note
Chief Complaint: sob
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   CTPE negative but with question of mass in the RUL.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-2-23**] 07:47 AM
   Heparin Sodium (Prophylaxis) - [**2179-2-23**] 07:47 AM
   Other medications:
   lisinopril 2.5 daily, azithro, asa, ipratropium, prednisone, insulin
   sliding scale, famotidine, heparin s/c, advair, trazodone, zoloft, prn
   nebs.prn senna.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-23**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 95 (93 - 118) bpm
   BP: 141/67(85) {100/34(58) - 200/82(120)} mmHg
   RR: 23 (19 - 36) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
             Total In:
                                                                  2,136 mL
                                                                    223 mL
   PO:
                                                                    240 mL
                                                                    220 mL
   TF:
   IVF:
                                                                  1,896 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    690 mL
   Urine:
                                                                  2,660 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -524 mL
                                                                   -467 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (480 - 480) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 4 cmH2O
   FiO2: 24%
   SpO2: 92%
   ABG: 7.43/53/65/37/8
   Ve: 10.8 L/min
   PaO2 / FiO2: 271
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   270 K/uL
   177 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.3 mEq/L
   19 mg/dL
   97 mEq/L
   141 mEq/L
   30.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2179-2-21**]  01:17 AM
                             [**2179-2-21**]  03:31 AM
                             [**2179-2-21**]  11:26 PM
                             [**2179-2-22**]  04:59 AM
                             [**2179-2-22**]  02:02 PM
                             [**2179-2-23**]  01:31 AM
   WBC
   9.6
   10.0
   8.9
   Hct
   30.4
   29.5
   30.1
   Plt
   [**Telephone/Fax (3) 10705**]
   Cr
   1.0
   1.1
   1.0
   TCO2
   35
   35
   36
   Glucose
   292
   202
   177
   Other labs: PT / PTT / INR:11.2/26.4/0.9, Differential-Neuts:69.9 %,
   Lymph:23.5 %, Mono:6.2 %, Eos:0.4 %, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.5 mg/dL
   Imaging: Chest CT with nodule in the RUL progressed since prior scan
   [**1-30**]
   Microbiology: + MRSA screen
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION: improved symptomatically. continue prednisone,
   inhalers, azithromycin. No evidence for PE on Chest CT. Euvolemic now.
   get OOB into chair
Possible Mass: RUL hightly concerning for malignancy, will discuss
   with her family today
DM: continue glucose control with s/c insulin prn.
Nutrition; regular diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-2-23**] 09:33 AM
   22 Gauge - [**2179-2-23**] 09:38 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: